US05747499
(5) Pentafluorophenyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate
A mixture of 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylic acid (0.01 g), pentafluorophenyl trifluoroacetate (0.16 g; prepared by the reaction of pentafluorophenol and trifluoroacetic acid), pyridine (0.045 g) and DMA (5 ml) was stirred at ambient temperature for 5 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic phase was dried (MgSO4) and evaporated. The residue was purified by column chromatography using increasingly polar mixtures of ethyl acetate and methanol as eluant. There was thus obtained pentafluorophenyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-pyridine-2-carboxylate as a foam (0.1 g);

reactant | 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylic acid | 0.01 g | CN(C1CCC2=C1C=C1C(NC(=NC1=C2)C)=O)C=2C=CC(=NC2)C(=O)O | C19H18N4O3
reactant | pentafluorophenyl trifluoroacetate | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | pentafluorophenol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | pyridine | 0.045 g | N1=CC=CC=C1 | C5H5N
product | Pentafluorophenyl 5-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]pyridine-2-carboxylate | CN(C1CCC2=C1C=C1C(NC(=NC1=C2)C)=O)C=2C=CC(=NC2)C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F | C25H17F5N4O3
